US07829580B2
(d) (E)-3-{[1-(t-butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one
Following a procedure similar to that described in Example 132-(c), ethyl [1-(t-butoxycarbonyl)-3-formyl-1H-pyrazol-5-yl]acetate (7.84 g) was subjected to the reaction with 1-(triphenylmethyl)piperidin-4-one in benzene using pyrrolidine. The crude product thus obtained was purified by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (3:1:1) as an eluent to afford the title compound (9.64 g, yield: 57%) as a yellow amorphous solid.

reactant | ethyl [1-(t-butoxycarbonyl)-3-formyl-1H-pyrazol-5-yl]acetate | 7.84 g | C(C)(C)(C)OC(=O)N1N=C(C=C1CC(=O)OCC)C=O | C13H18N2O5
reactant | 1-(triphenylmethyl)piperidin-4-one | C1(=CC=CC=C1)C(N1CCC(CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E)-3-{[1-(t-butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 9.64 g, yield: 57% | C(C)(C)(C)OC(=O)N1N=C(C=C1CC(=O)OCC)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H39N3O5
